US07279469B2
4-(5-Amino-3-phenylamino-[1,2,4]triazol-1-yl)-6-phenylamino-pyrimidine-2-carboxylic acid amide
To (20 mg; 0.054 mMol) of 4-(5-amino-3-phenylamino-[1,2,4]triazol-1-yl)-6-phenylamino-pyrimidine-2-carbonitrile in 500 μL of DMSO was added, at ambient temperature, (5 mg; 0.036 mMol) of anhydrous K2CO3, followed by 10 drops of 30% aqueous H2O2. The reaction was stirred for 10 min and quenched with water. The aqueous layer was extracted with EtOAc (2×). The organic fractions were combined and washed with water, brine, and then dried (Na2SO4), filtered and concentrated. The solid was triturated with hot 2-propanol, allowed to cool and the solid was collected via suction filtration, washed with 2-propanol, and MTBE, and air-dried to provide an off white powder (61% yield).

reactant | 4-(5-amino-3-phenylamino-[1,2,4]triazol-1-yl)-6-phenylamino-pyrimidine-2-carbonitrile | 0.054 mMol, 20 mg | NC1=NC(=NN1C1=NC(=NC(=C1)NC1=CC=CC=C1)C#N)NC1=CC=CC=C1 | C19H15N9
reactant | K2CO3 | 0.036 mMol, 5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 500 μL | CS(=O)C | C2H6OS
catalyst | H2O2 | 10 drops | OO | H2O2
product | 4-(5-Amino-3-phenylamino-[1,2,4]triazol-1-yl)-6-phenylamino-pyrimidine-2-carboxylic acid amide | 61% yield | NC1=NC(=NN1C1=NC(=NC(=C1)NC1=CC=CC=C1)C(=O)N)NC1=CC=CC=C1 | C19H17N9O
